US06583156B1
α-(2-Aminophenyl)-2,8-bis(trifluoromethyl)-4-quinolinemethanol
A solution of 2,8-bis(trifluoromethyl)-α-(2-nitrophenyl)-4-quinolinemethanol (636 mg, 1.53 mmol) in EtOH (30 mL) was treated with zinc dust (994 mg, 15.3 mmol) and CaCl2 (170 mg, 1.53 mmol), refluxed for 3 h, cooled, filtered through a pad of celite, concentrated in vacuo, purified by chromatography [SiO2; CH2Cl2] and the resulting solid recrystallised from CH2Cl2/heptane to give the title compound (202 mg, 34%) as a cream solid: mp 145.9-146.2° C.; IR νmax (Nujol)/cm−1 3413, 3339, 3094, 2924, 2854, 1611, 1586, 1462, 1313, 1295, 1155, 1132, 1111 and 1073; NMR δH (400 MHz, CDCl3) 1.40-1.79 (1H, s), 2.39-3.14 (1H, s), 3.84-4.58 (2H, s), 6.48-6.50 (1H, m), 6.59-6.62 (2H, m), 6.83 (1H, d, J 6.5 Hz), 7.15-7.18 (1H, m), 7.59 (1H, t, J 8.1 Hz), 7.99 (1H, d, J 9.0 Hz), 8.12 (1H, d, J 6.9 Hz) and 8.18 (1H, s); Anal. Calcd for C18H12F6N2O.0.25 H2O: C, 55.32; H, 3.22; N, 7.17. Found: C, 55.33; H, 3.34; N, 7.03.

reactant | 2,8-bis(trifluoromethyl)-α-(2-nitrophenyl)-4-quinolinemethanol | 1.53 mmol, 636 mg | FC(C1=NC2=C(C=CC=C2C(=C1)C(O)C1=C(C=CC=C1)[N+](=O)[O-])C(F)(F)F)(F)F | C18H10F6N2O3
reactant | CaCl2 | 1.53 mmol, 170 mg | [Cl-].[Cl-].[Ca+2]
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | zinc | 15.3 mmol, 994 mg | [Zn] | Zn
product | α-(2-Aminophenyl)-2,8-bis(trifluoromethyl)-4-quinolinemethanol | 202 mg, 34% | NC1=C(C=CC=C1)C(O)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C18H12F6N2O
